US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 3-methoxybenzoyl chloride (74 μL, 0.53 mmol). The final trituration (diethyl ether/hexane) and filtration gave 56 mg (45%) of 18-(3-methoxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 98.7% pure (HPLC), MS m/z 703 (M−H)−, HRMS: calcd. 705.2806 and found 705.2782 (M+H)+, mp 149-151° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCOCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C25H38N4O9S
reactant | 3-methoxybenzoyl chloride | 0.53 mmol, 74 μL | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
product | 18-(3-methoxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene | 56 mg, 45% | COC=1C=C(C(=O)OC2CN3C(C(CCCOCC=CC4CC4(NC(C3C2)=O)C(=O)NS(=O)(=O)C2CC2)NC(=O)OC(C)(C)C)=O)C=CC1 | C33H44N4O11S
